US04584295
16.1 g (0.1 mol) of 6-chloromethyl-uracil and 57.0 g (0.3 mol) of triethyloxonium tetrafluoroborate are suspended in 100 ml of 1,1,2-trichloroethane and the suspension is left at 90° C. for 18 hours. The mixture is subsequently cooled and treated dropwise with a 50% aqueous solution of 41.5 g (0.3 mol) of potassium carbonate, incipient strong evolution of carbon dioxide being observed. The supernatant is then decanted off from the precipitated sludge-like residue and the residue is extracted several times with small amounts of methylene chloride. The combined organic phases are washed with water, dried over anhydrous sodium sulphate and evaporated under reduced pressure. The crude product is taken up in hot n-hexane and the solution is treated with active carbon and separated from insoluble constituents by filtration. Upon concentration of the filtrate there is obtained 4-chloromethyl-2,6-diethoxy-pyrimidine, m.p. 38°-39° C.

reactant | 6-chloromethyl-uracil | 0.1 mol, 16.1 g | ClCC1=CC(NC(N1)=O)=O | C5H5ClN2O2
reactant | triethyloxonium tetrafluoroborate | 0.3 mol, 57.0 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | potassium carbonate | 0.3 mol, 41.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | 1,1,2-trichloroethane | 100 ml | ClC(CCl)Cl | C2H3Cl3
product | 4-chloromethyl-2,6-diethoxy-pyrimidine | ClCC1=NC(=NC(=C1)OCC)OCC | C9H13ClN2O2
